US03957833
By utilizing the procedure of Example 8, by reacting p-[(1,5-dimethylhexyl)oxy]benzoic acid with 1-bromo-2-pentyne, there is obtained p-[(1,5-dimethylhexyl)oxy]benzoic acid-2-pentynyl ester; nD24 = 1.5078.

reactant | p-[(1,5-dimethylhexyl)oxy]benzoic acid | CC(CCCC(C)C)OC1=CC=C(C(=O)O)C=C1 | C15H22O3
reactant | 1-bromo-2-pentyne | BrCC#CCC | C5H7Br
product | p-[(1,5-dimethylhexyl)oxy]benzoic acid-2-pentynyl ester | C(C#CCC)OC(C1=CC=C(C=C1)OC(CCCC(C)C)C)=O | C20H28O3
